US05571813
Preparation of 1-(4-Nitrobenzamido)-2-(tetrazol-5-yl)benzene
3.0 g (18.6 mmol) 2-(tetrazol-5-yl)aniline (prepared by heating of 2-aminobenzonitrile in the presence of sodium azide according to E. R. Wagner, J. Org. Chem. 1973, 38, 2976) and 3.2 ml pyridine were dissolved in 50 ml dichloromethane. A solution of 3.7 g (19.9 mmol) 4-nitrobenzoyl chloride in 50 ml dichloromethane was added via a dropping funnel, and the mixture was heated with reflux for 1 h. The title compound precipitated from the solution, was filtered with suction, washed with hexane, and dried in vacuo to give a yellow powder, m.p. 223-225 (dec.)

reactant | 2-(tetrazol-5-yl)aniline | 18.6 mmol, 3.0 g | N1N=NN=C1C1=C(N)C=CC=C1 | C7H7N5
reactant | 2-aminobenzonitrile | NC1=C(C#N)C=CC=C1 | C7H6N2
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | 4-nitrobenzoyl chloride | 19.9 mmol, 3.7 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | pyridine | 3.2 ml | N1=CC=CC=C1 | C5H5N
product | 1-(4-Nitrobenzamido)-2-(tetrazol-5-yl)benzene | [N+](=O)([O-])C1=CC=C(C(=O)NC2=C(C=CC=C2)C2=NN=NN2)C=C1 | C14H10N6O3
